US05547954
A solution of about 6.1 grams (0.038 mole) of a mixture of 1,1-dicyano-4-ethoxy-3-methyl-1,3-butadiene and 1,1-dicyano-4,4-diethoxy-3-methyl-1-butene in 200 mL of saturated methanolic ammonia is stirred at ambient temperature for about 15 hours. After this time the solvent is removed under reduced pressure, and the residue is partitioned between 160 mL of aqueous 1N hydrochloric acid and 160 mL of ethyl acetate. The aqueous layer is separated and poured into 160 mL of an aqueous solution saturated with sodium bicarbonate. The resultant solid is collected by filtration and dried, yielding about 2.6 grams of 2-amino-3-cyano-4-methylpyridine. Steps A and B are repeated.

reactant | 1,1-dicyano-4-ethoxy-3-methyl-1,3-butadiene | C(#N)C(=CC(=COCC)C)C#N | C9H10N2O
reactant | 1,1-dicyano-4,4-diethoxy-3-methyl-1-butene | C(#N)C(=CC(C(OCC)OCC)C)C#N | C11H16N2O2
reactant | ammonia | 200 mL | N | H3N
product | 2-amino-3-cyano-4-methylpyridine | about 2.6 grams | NC1=NC=CC(=C1C#N)C | C7H7N3
